US09315521B2
To a solution of [4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methanol (703 mg, 4.6 mmol) in anhydrous dichloromethane (40 mL) was added thionyl chloride (1.7 mL). The mixture was stirred at room temperature overnight. Dichloromethane was evaporated, and then the mixture was co-evaporated with toluene (1×20 mL). The residue was dried in vacuo, affording 5-(chloromethyl)-4-methyl-1-(propan-2-yl)-1H-imidazole hydrochloride (824 mg, 86% yield). The product was used without further purification.

reactant | [4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methanol | 4.6 mmol, 703 mg | CC=1N=CN(C1CO)C(C)C | C8H14N2O
reactant | thionyl chloride | 1.7 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-(chloromethyl)-4-methyl-1-(propan-2-yl)-1H-imidazole hydrochloride | 824 mg, 86% yield | Cl.ClCC1=C(N=CN1C(C)C)C | InChI=1S/C8H13ClN2.ClH/c1-6(2)11-5-10-7(3)8(11)4-9;/h5-6H,4H2,1-3H3;1H
